US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol), thiophen-3-ylmethanamine (11.8 mg, 0.104 mmol), 4-methylmorpholine (28.1 mg, 0.278 mmol), and HATU (34.4 mg, 0.090 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(thiophen-3-ylmethyl)acetamide (12.9 mg, 0.025 mmol, 35.2% yield): LCMS=527.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.16 (2 H, d, J=8.53 Hz), 7.52-7.76 (7 H, m), 7.26 (1 H, dd, J=5.02, 1.25 Hz), 6.85-7.01 (2 H, m), 5.16 (1 H, s), 4.60 (2 H, s); HPLC peak RT=3.0 min (Method E).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | thiophen-3-ylmethanamine | 0.104 mmol, 11.8 mg | S1C=C(C=C1)CN | C5H7NS
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(thiophen-3-ylmethyl)acetamide | 0.025 mmol, 12.9 mg, 35.2% yield | OC(C(=O)NCC1=CSC=C1)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C25H17F3N4O4S
